US07566712B2
U. 4-(3-chloro-4-fluorophenyl)-6-((R)-4-(3-chloropyridin-2-yl)-2-methylpiperazin-1-yl)-2-(2-methylpyrrolidin-1-yl)pyrimidine
Dissolve 2-(benzylsulfonyl)-4-(3-chloro-4-fluorophenyl)-6-((R)-4-(3-chloropyridin-2-yl)-2-methylpiperazin-1-yl)pyrimidine (57 mg, 0.1 mmol) and 2-methylpyrrolidine (0.5 mmol) in dioxane (1.0 mL) under nitrogen atmosphere and beat at 110° C. for 72 hours. Concentrate under vacuum to afford crude product and purify by flash column chromatography using 5% EtOAc/hexane to afford the title product as white amorphous solid. NMR (CDCl3) δ 1.31 (3H, d, J=1.5), 1.41 (3H, dd), 1.69 (1H, m), 1.9 (1H, m), 2.0 (2H, m), 2.98 (2H, m), 3.39 (1H, m), 3.65 (2H, m), 3.82 (2H, m), 4.35 (2H, m), 4.68 (1H, m), 6.22 (1H, s), 6.86 (1H, m), 7.16 (1H, t), 7.61 (1H, d, J=1.6), 7.88 (1H, m), 8.07 (1H, m), 8.20 (1H, m). Mass spec m/z=501.13.

reactant | 2-(benzylsulfonyl)-4-(3-chloro-4-fluorophenyl)-6-((R)-4-(3-chloropyridin-2-yl)-2-methylpiperazin-1-yl)pyrimidine | 0.1 mmol, 57 mg | C(C1=CC=CC=C1)S(=O)(=O)C1=NC(=CC(=N1)C1=CC(=C(C=C1)F)Cl)N1[C@@H](CN(CC1)C1=NC=CC=C1Cl)C | C27H24Cl2FN5O2S
reactant | 2-methylpyrrolidine | 0.5 mmol | CC1NCCC1 | C5H11N
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | 4-(3-chloro-4-fluorophenyl)-6-((R)-4-(3-chloropyridin-2-yl)-2-methylpiperazin-1-yl)-2-(2-methylpyrrolidin-1-yl)pyrimidine | ClC=1C=C(C=CC1F)C1=NC(=NC(=C1)N1[C@@H](CN(CC1)C1=NC=CC=C1Cl)C)N1C(CCC1)C | C25H27Cl2FN6
